US07452880B2
Tris(dibenzylidine acetone)dipalladium CHCl3 (5.0 mg, 0.004 mmol), and potassium carbonate (26 mg, 0.19 mmol) were suspended in 1 mL of toluene under argon. A solution of 6-(2,4-Difluoro-phenoxy)-3-iodo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-d]pyrimidine (48 mg, 0.09 mmol) in 2 mL toluene was added, and the reaction mixture was stirred at 65° C. for 16 hours, then stirred at 110° C. for four hours. The reaction mixture was cooled, filtered through Celite, and the filtrate was concentrated under reduced pressure. The residue was purified by flash chromatography (23 mm×14 cm silica with hexanes/EtOAc 20:1 to 4:1) to yield 42 mg of 6-(2,4-Difluoro-phenoxy)-3-styryl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-d]pyrimidine.

reactant | potassium carbonate | 0.19 mmol, 26 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 6-(2,4-Difluoro-phenoxy)-3-iodo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-d]pyrimidine | 0.09 mmol, 48 mg | FC1=C(OC2=NC=C3C(=N2)N(N=C3I)COCC[Si](C)(C)C)C=CC(=C1)F | C17H19F2IN4O2Si
reactant | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 6-(2,4-Difluoro-phenoxy)-3-styryl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-d]pyrimidine | 42 mg | FC1=C(OC2=NC=C3C(=N2)N(N=C3C=CC3=CC=CC=C3)COCC[Si](C)(C)C)C=CC(=C1)F | C25H26F2N4O2Si
